US04287195
To a stirred solution of 8 parts of 4-(4-methoxyphenyl)-1-piperazinamine in 5 parts of pyridine and 45 parts of trichloromethane are added dropwise during a 30 minutes period 7.8 parts of phenyl carbonochloridate. Upon completion, stirring is continued for 30 minutes at room temperature. Water is added to the reaction mixture and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is triturated in 4-methyl-2-pentanone. The product is filtered off and crystallized from 1,4-dioxane, yielding 9 parts (70%) of phenyl [4-(4-methoxyphenyl)-1-piperazinyl]carbamate.

reactant | 4-(4-methoxyphenyl)-1-piperazinamine | COC1=CC=C(C=C1)N1CCN(CC1)N | C11H17N3O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
reactant | phenyl carbonochloridate | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | Water | O | H2O
product | phenyl [4-(4-methoxyphenyl)-1-piperazinyl]carbamate | 70% | COC1=CC=C(C=C1)N1CCN(CC1)NC(OC1=CC=CC=C1)=O | C18H21N3O3
